US08236835B2
Synthesis of N-benzyl-2-(3-benzyl-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 2, making variation as required to use N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide to react with (bromomethyl)benzene in place of 1-(bromomethyl)-4-(trifluoromethyl)benzene, the title compound was obtained as a white solid in 26% yield: mp 162-164° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.39-7.32 (m, 10H), 6.01 (br s, 1H), 4.57 (d, J=5.3 Hz, 2H), 4.32-4.18 (m, 1H), 4.02-3.88 (m, 1H), 3.47-3.38 (m, 1H), 2.87-2.69 (m, 2H), 2.64 (s, 3H), 2.07-1.45 (m, 4H); 13C NMR (75 MHz, CDCl3) δ 172.2, 162.7, 157.0, 152.2, 138.9, 137.9, 129.2, 128.8, 128.6, 127.9, 127.7, 126.5, 119.4, 48.1, 44.1, 44.0, 37.6, 24.8, 21.2, 17.4; MS (ES+) m/z 420.5 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
reactant | (bromomethyl)benzene | BrCC1=CC=CC=C1 | C7H7Br
product | N-benzyl-2-(3-benzyl-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 26% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)CC1=CC=CC=C1)=O)C | C24H25N3O2S
